US05514680
5,6,7,8-Tetrachloro-1,4-dihydro-2,3-quinoxalinedione was prepared using an adaptation of the method of Cheeseman. (Cheeseman, G. W. H. J. Chem. Soc. 1171 (1962)). A mixture of diethyl oxalate (2.97 g, 20.0 mmol) and 1,2-diamino-3,4,5,6-tetrachlorobenzene (500 mg, 2.03 mmol) was heated to reflux under N2 for 6 h. The reaction was allowed to cool to room temperature and the orange solid collected by vacuum filtration and rinsed with cold EtOH (10 mL) and air dried. This solid was recrystallized from abs. ethanol to give 97.0 mg (16%) of an orange solid mp 326°-328° C. (dec). (Lit., >360°). FT-IR: 3198, 3135 cm-1 (N--H), 1750, 1623 cm-1 (C=O). 1H NMR δ (d6 -DMSO) δ11.7 (br s, 2H, N--H) EIMS m/z 306 (M+8, 1.7), 304 (M+6, 11.5), 302 (M+4, 47.4), 300 (M+2, 93.9), 288 (M+, 76.7), 274 (50.0), 272 (bp), 270 (79.0), 209 (61.0), 207 (64.0). EIHRMS calc. for C8H2Cl4N2O2 297.8870, found 297.8864.

reactant | diethyl oxalate | 20.0 mmol, 2.97 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 1,2-diamino-3,4,5,6-tetrachlorobenzene | 2.03 mmol, 500 mg | NC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)N | C6H4Cl4N2
product | 5,6,7,8-Tetrachloro-1,4-dihydro-2,3-quinoxalinedione | ClC1=C2NC(C(NC2=C(C(=C1Cl)Cl)Cl)=O)=O | C8H2Cl4N2O2
